US08420632B2
13.2 ml (92 mmol) of benzyl chloroformate are added slowly to a solution, cooled to 0° C., of 15 g (84 mmol) of bis(2-chloroethylamine) hydrochloride, 26 ml (185 mmol) of triethylamine in 200 ml of dichloromethane and 70 ml of tetrahydrofuran, stirred beforehand for 15 min and then filtered in order to remove the triethylammonium chloride. The reaction medium is stirred at ambient temperature for 18 h. After the addition of water, the reaction medium is extracted with ethyl acetate. The organic phase is dried over magnesium sulfate, filtered and evaporated. 20 g of crude residue are obtained and purified by chromatography on silica gel, elution being carried out with an 8/2 heptane/ethyl acetate mixture. 6 g (26%) of benzyl bis(2-chloroethyl)carbamate are thus obtained.

reactant | benzyl chloroformate | 92 mmol, 13.2 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | bis(2-chloroethylamine) hydrochloride | 84 mmol, 15 g | Cl.ClCCN.ClCCN
reactant | triethylamine | 185 mmol, 26 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | benzyl bis(2-chloroethyl)carbamate | 6 g, 26% | ClCCN(C(OCC1=CC=CC=C1)=O)CCCl | C12H15Cl2NO2
